US05665718
8 ml of hydrazine hydrate were added to a suspension of 4.0 g (12.6 mmol) of ethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate in 40 ml of ethanol and the mixture was heated at reflux for 3 hours. After cooling to 0° the crystals obtained were filtered off and there were obtained 3.6 g (94%) of (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide as colourless needles of m.p. >260°.

reactant | hydrazine hydrate | 8 ml | O.NN
reactant | ethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate | 12.6 mmol, 4.0 g | O=C1C2=C(N3C([C@H]4N1CCC4)=C(N=C3)C(=O)OCC)C=CS2 | C15H15N3O3S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide | 3.6 g, 94% | O=C1C2=C(N3C([C@H]4N1CCC4)=C(N=C3)C(=O)NN)C=CS2 | C13H13N5O2S
